US04952574
Under a nitrogen atmosphere, 3.5 g of 60% sodium hydride in mineral oil is washed twice with hexane and then suspended in 80 ml of dry dimethylformamide. A solution of 22.5 g (0.069 mole) of 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide in 100 ml of dimethylformamide is added dropwise to the sodium hydride suspension to give a thick foam. After the addition is complete the reaction mixture is stirred for 30 minutes at about 25° C. and for another 30 minutes at about 60° C. A solution of 20.2 g (0.097 mole) of 5-bromovaleric acid ethyl ester in 40 ml of dimethylformamide is added dropwise with stirring to the reaction mixture. The resulting pale brown solution is allowed to stir at about 60° C. for about 16 hours. The solution is poured into about 1 liter of cold water and then chilled. The resulting precipitate is collected, rinsed with cold water and then dissolved in chloroform. The chloroform solution is washed through a short Florisil® column and the eluent is evaporated to give 28.3 g of an ivory, waxy solid. This material is recrystallized from about 280 ml of 2:1 ethanol:water to give 23.1 g of ivory crystalline 2-(4-ethoxycarbonyl-butoxy(-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide, m.p. 88°-90° C.

reactant | 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 0.069 mole, 22.5 g | OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C15H13F3N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromovaleric acid ethyl ester | 0.097 mole, 20.2 g | C(C)OC(CCCCBr)=O | C7H13BrO2
reactant | water | about 1 liter | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | N1=C(C=CC=C1)CNC(C1=CC=CC(=C1)OCC(F)(F)F)=O | C15H13F3N2O2
